US07795288B2
[4-(2-Dimethylamino-ethoxy)-phenyl]-[5-(4-methoxy-phenyl)thiazol-2-yl]-amine
The title compound is prepared as described in Example 3 for [5-(4-methoxy-phenyl)-thiazol-2-yl]-[4-(2-pyrrolidin-1-yl-ethoxy)-phenyl]-amine but using [4-(2-dimethylamino-ethoxy)-phenyl]-thiourea. Title compound: ES-MS: 370.0 [M+H]+; single peak at tR=6.13 min (System 1); Rf=0.13 (CH2Cl2/MeOH, 80/20).

reactant | [5-(4-methoxy-phenyl)-thiazol-2-yl]-[4-(2-pyrrolidin-1-yl-ethoxy)-phenyl]-amine | COC1=CC=C(C=C1)C1=CN=C(S1)NC1=CC=C(C=C1)OCCN1CCCC1 | C22H25N3O2S
reactant | [4-(2-dimethylamino-ethoxy)-phenyl]-thiourea | CN(CCOC1=CC=C(C=C1)NC(=S)N)C | C11H17N3OS
solvent | CH2Cl2 MeOH | C(Cl)Cl.CO
product | [4-(2-Dimethylamino-ethoxy)-phenyl]-[5-(4-methoxy-phenyl)thiazol-2-yl]-amine | CN(CCOC1=CC=C(C=C1)NC=1SC(=CN1)C1=CC=C(C=C1)OC)C | C20H23N3O2S
